US06852446B2
Lithium benzimidazolide (LiC7H5N2)
A slurry of benzimidazole (8.50 g, 36.3 mmol) in toluene (40 mL) at 0° C. was treated with 25.8 mL of a 2.8 M n-BuLi (72.2 mmol) solution in hexanes. This solution mixture was then refluxed for one day during which time the slurry became off-white. The slurry was then filtered over a medium glass frit and dried to give a white solid.

reactant | benzimidazole | 36.3 mmol, 8.50 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | n-BuLi | 72.2 mmol, 2.8 M | [Li]CCCC
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | Lithium benzimidazolide | N1=C[N-]C2=C1C=CC=C2.[Li+] | InChI=1S/C7H5N2.Li/c1-2-4-7-6(3-1)8-5-9-7;/h1-5H;/q-1;+1
